US06733955B1
In the examples shown in FIGS. 13a-16b, the same process parameters were used: a pressure of about 450 Torr, a heater temperature of about 400° C., a helium flow rate of about 3000 sccm, an ozone flow rate of about 5000 sccm, a TEOS flow rate of about 320 mgm, and an ozone concentration of about 12.5 wt. %. This provides an O3/TEOS ratio of about 13:1. The observed deposition rate is about 3000 Å/min on silicon, about 1000 Å/min on LPCVD silicon nitride, and about 1050 Å/min on thermal oxide. The trench depth is about 0.55 μm and two trench widths are used: 0.25 μm (FIGS. 13a-16a) and 1 μm (FIGS. 13b-16b).

reactant | ozone | O=[O+][O-] | O3
reactant | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
product | O3 TEOS | O=[O+][O-].CCO[Si](OCC)(OCC)OCC | InChI=1S/C8H20O4Si.O3/c1-5-9-13(10-6-2,11-7-3)12-8-4;1-3-2/h5-8H2,1-4H3;
